US04584293
(a) 3-(7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-propionaldehyde diethyl acetal
This is prepared analogously to Example H (a) by reacting 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one with 3-chloro-propionaldehyde diethyl acetal.

reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | 3-chloro-propionaldehyde diethyl acetal | C(C)OC(CCCl)OCC | C7H15ClO2
product | 3-(7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-propionaldehyde diethyl acetal | C(C)OC(CCN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC)OCC | C19H27NO5
